### PR TITLE
[Merged by Bors] - feat(LinearAlgebra/PiTensorProduct): `PiTensorProduct`s over `Finsupp`, `DFinsupp`, and `DirectSum`

### PR DESCRIPTION
**Pull request by morrison-daniel**
Adds linear equivalences for `PiTensorProduct`s taken over `Finsupp`, `DFinsupp`, and `DirectSum`. The main definitions are:
* `PiTensorProduct.ofDFinsuppEquiv` is the linear equivalence of tensor products over `DFinsupp` to a `DFinsupp` of tensor products
* `PiTensorProduct.ofFinsuppEquiv` is the linear equivalence of tensor products over `Finsupp` to a `Finsupp` of tensor products
* `PiTensorProduct.ofDirectSumEquiv` is the linear equivalence of tensor products over a direct sum to the direct sum over tensor products

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/PiTensorProduct/DFinsupp.lean [hunk 1]
```diff
@@ -0,0 +1,69 @@
...
+theorem ofDFinsuppEquiv_tprod_apply (x : Π i, Π₀ j, M i j) (p : Π i, κ i) :
+    ofDFinsuppEquiv (tprod R x) p = ⨂ₜ[R] i, x i (p i) := by
+  haveI := fun i j => Classical.typeDecidableEq (M i j)
+  simp only [ofDFinsuppEquiv, LinearEquiv.ofLinear_apply, lift.tprod,
+    MultilinearMap.fromDFinsuppEquiv_apply, compMultilinearMap_apply, DFinsupp.lsingle_apply,
+    DFinsupp.finset_sum_apply, DFinsupp.single_apply, ne_eq, Finset.sum_dite_eq',
+    Fintype.mem_piFinset, DFinsupp.mem_support_toFun, ite_eq_left_iff, not_forall,
+    Decidable.not_not, forall_exists_index]
+  intro i hi
+  rw [(tprod R).map_coord_zero i hi]
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/PiTensorProduct/DFinsupp.lean]:
```suggestion
  classical
  simpa [ofDFinsuppEquiv, MultilinearMap.fromDFinsuppEquiv_apply] using fun i hi ↦
    ((tprod R).map_coord_zero (m := fun i ↦ x i (p i)) i hi).symm
```

File: Mathlib/LinearAlgebra/PiTensorProduct/DFinsupp.lean [hunk 2]
```diff
@@ -0,0 +1,69 @@
...
+@[expose] public section
+
+namespace PiTensorProduct
+
+open LinearMap TensorProduct
+
+variable {R ι M' : Type*} {κ : ι → Type*} {M : (i : ι) → κ i → Type*}
+variable [CommSemiring R] [Fintype ι] [DecidableEq ι] [(i : ι) → DecidableEq (κ i)]
+variable [Π i (j : κ i), AddCommMonoid (M i j)] [AddCommMonoid M']
+variable [Π i (j : κ i), Module R (M i j)] [Module R M']
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/PiTensorProduct/DFinsupp.lean]: The variable `M'` is not used so we can drop it. I'd also leave the decidability nonsense till last:
```suggestion
variable {R ι : Type*} {κ : ι → Type*} {M : (i : ι) → κ i → Type*}
  [CommSemiring R] [Π i (j : κ i), AddCommMonoid (M i j)] [Π i (j : κ i), Module R (M i j)]
  [Fintype ι] [DecidableEq ι] [(i : ι) → DecidableEq (κ i)]
```

File: Mathlib/LinearAlgebra/PiTensorProduct/Finsupp.lean [hunk 3]
```diff
@@ -0,0 +1,77 @@
...
+variable {R ι : Type*} {κ M : ι → Type*}
+variable [CommSemiring R] [Fintype ι] [DecidableEq ι] [(i : ι) → DecidableEq (κ i)]
+variable [∀ i, AddCommMonoid (M i)] [∀ i, Module R (M i)] [∀ i, DecidableEq (M i)]
+
+/-- If `ι` is a `Fintype`, `κ i` is a family of types indexed by `ι` and `M i` is a family
+of modules indexed by `ι`, then the tensor product of the family `κ i →₀ M i` is linearly
+equivalent to `∏ i, κ i →₀ ⨂[R] i, M i`.
+-/
+noncomputable def ofFinsuppEquiv :
+  (⨂[R] i, κ i →₀ M i) ≃ₗ[R] ((i : ι) → κ i) →₀ ⨂[R] i, M i :=
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/PiTensorProduct/Finsupp.lean]: Statements get four spaces (proofs / terms get two):
```suggestion
    (⨂[R] i, κ i →₀ M i) ≃ₗ[R] ((i : ι) → κ i) →₀ ⨂[R] i, M i :=
```

File: Mathlib/LinearAlgebra/PiTensorProduct/DirectSum.lean [hunk 4]
```diff
@@ -0,0 +1,56 @@
...
+@[expose] public section
+
+namespace PiTensorProduct
+
+open PiTensorProduct DirectSum TensorProduct
+
+variable {R ι M' : Type*} {κ : ι → Type*} {M : (i : ι) → κ i → Type*}
+variable [CommSemiring R] [Fintype ι] [DecidableEq ι] [(i : ι) → DecidableEq (κ i)]
+variable [Π i (j : κ i), AddCommMonoid (M i j)] [AddCommMonoid M']
+variable [Π i (j : κ i), Module R (M i j)] [Module R M']
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/PiTensorProduct/DirectSum.lean]: The variable `M'` is not used so we should drop it. More importantly, I think this is a good place to stop the growth the silly `DecidableEq` data, and also to use `Finite` instead of `Fintype`. So we just need:
```suggestion
variable {R ι : Type*} {κ : ι → Type*} {M : (i : ι) → κ i → Type*}
  [CommSemiring R] [Π i (j : κ i), AddCommMonoid (M i j)] [Π i (j : κ i), Module R (M i j)]
```

File: Mathlib/LinearAlgebra/PiTensorProduct/DirectSum.lean [hunk 5]
```diff
@@ -0,0 +1,56 @@
...
+
+/-- The n-ary tensor product distributes over m-ary direct sums. -/
+def ofDirectSumEquiv :
+    (⨂[R] i, (⨁ j : κ i, M i j)) ≃ₗ[R] ⨁ p : Π i, κ i, ⨂[R] i, M i (p i) :=
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/PiTensorProduct/DirectSum.lean:35]: Since we're dropping `DecidableqEq` and using `Finite` rather than `Fintype` this becomes:
```suggestion
open scoped Classical in
/-- The n-ary tensor product distributes over m-ary direct sums. -/
noncomputable def ofDirectSumEquiv [Finite ι] :
    (⨂[R] i, (⨁ j : κ i, M i j)) ≃ₗ[R] ⨁ p : Π i, κ i, ⨂[R] i, M i (p i) :=
  have : Fintype ι := Fintype.ofFinite ι
```

File: Mathlib/LinearAlgebra/PiTensorProduct/DirectSum.lean [hunk 6]
```diff
@@ -0,0 +1,56 @@
...
+  ofDFinsuppEquiv
+
+@[simp]
+theorem ofDirectSumEquiv_tprod_lof (p : Π i, κ i) (x : Π i, M i (p i)) :
+    ofDirectSumEquiv (⨂ₜ[R] i, DirectSum.lof R _ _ (p i) (x i)) =
+      DirectSum.lof R _ _ p (⨂ₜ[R] i, x i) :=
+  ofDFinsuppEquiv_tprod_single _ _
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/PiTensorProduct/DirectSum.lean]:
```suggestion
theorem ofDirectSumEquiv_tprod_lof [Fintype ι] [(i : ι) → DecidableEq (κ i)]
    (p : Π i, κ i) (x : Π i, M i (p i)) :
    ofDirectSumEquiv (⨂ₜ[R] i, DirectSum.lof R _ _ (p i) (x i)) =
      DirectSum.lof R _ _ p (⨂ₜ[R] i, x i) := by
  classical
  rw [ofDirectSumEquiv]
  convert ofDFinsuppEquiv_tprod_single p x
```

File: Mathlib/LinearAlgebra/PiTensorProduct/DirectSum.lean [hunk 7]
```diff
@@ -0,0 +1,56 @@
...
+
+@[simp]
+theorem ofDirectSumEquiv_symm_lof_tprod (p : Π i, κ i) (x : Π i, M i (p i)) :
+    ofDirectSumEquiv.symm (DirectSum.lof R _ _ p (tprod R x)) =
+      (⨂ₜ[R] i, DirectSum.lof R _ _ (p i) (x i)) :=
+  ofDFinsuppEquiv_symm_single_tprod _ _
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/PiTensorProduct/DirectSum.lean]:
```suggestion
theorem ofDirectSumEquiv_symm_lof_tprod [Fintype ι] [(i : ι) → DecidableEq (κ i)]
    (p : Π i, κ i) (x : Π i, M i (p i)) :
    ofDirectSumEquiv.symm (DirectSum.lof R _ _ p (tprod R x)) =
      (⨂ₜ[R] i, DirectSum.lof R _ _ (p i) (x i)) := by
  classical
  rw [ofDirectSumEquiv]
  convert ofDFinsuppEquiv_symm_single_tprod p x
```

File: Mathlib/LinearAlgebra/PiTensorProduct/DirectSum.lean [hunk 8]
```diff
@@ -0,0 +1,56 @@
...
+
+@[simp]
+theorem ofDirectSumEquiv_tprod_apply (x : Π i, ⨁ j, M i j) (p : Π i, κ i) :
+    ofDirectSumEquiv (tprod R x) p = ⨂ₜ[R] i, x i (p i) :=
+  ofDFinsuppEquiv_tprod_apply _ _
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/PiTensorProduct/DirectSum.lean]:
```suggestion
theorem ofDirectSumEquiv_tprod_apply [Finite ι]
    (x : Π i, ⨁ j, M i j) (p : Π i, κ i) :
    ofDirectSumEquiv (tprod R x) p = ⨂ₜ[R] i, x i (p i) := by
  have : Fintype ι := Fintype.ofFinite ι
  convert ofDFinsuppEquiv_tprod_apply _ _
```

**Review by ocfnash — APPROVED** [review]
Thanks!

bors d+
